### PR TITLE
lsubmx0 and rsubmx0 lemmas

### PR DESCRIPTION
**Pull request by yosakaon**
##### Motivation for this change
When working with partitioned matrices (lsubmx, rsubmx), especially in the context of ODEs, we often want to prove that a quantity vanishes at equilibrium points. 
If the full matrix is zero, then both left and right submatrices are also zero. 
These lemmas make such reasoning immediate.  

##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/matrix.v [hunk 1]
```diff
@@ -771,6 +771,11 @@ Fact dsubmx_key : unit. Proof. by []. Qed.
 Definition dsubmx (A : 'M[R]_(m1 + m2, n)) :=
   \matrix[dsubmx_key]_(i, j) A (rshift m1 i) j.
 
+Lemma lsubmx0 {R : nmodType} m n1 n2 : @lsubmx R m n1 n2 0 = 0.
+Proof. by apply/matrixP => i j; rewrite !mxE. Qed.
+
+Lemma rsubmx0 {R : nmodType} m n1 n2 : @rsubmx R m n1 n2 0 = 0.
+Proof. by apply/matrixP => i j; rewrite !mxE. Qed.
 Lemma row_mxEl A1 A2 i j : row_mx A1 A2 i (lshift n2 j) = A1 i j.
```
Comment (CohenCyril) [inline algebra/matrix.v]:
```suggestion
Lemma row_mxEl A1 A2 i j : row_mx A1 A2 i (lshift n2 j) = A1 i j.

```

**Review by CohenCyril — APPROVED** [review]
Thank you for your contribution. The PR is welcome, up to a missing newline
